US05316755
A flask containing 10-bromoundecanoic acid (25.0 g, 94.2 mmol) was charged with dry THF (250 ml), immersed in an ice/water bath and fitted with an addition funnel. The addition funnel was charged with borane-THF solution (1.0M, 113 ml, 113 mmol) which was added to the stirred reaction mixture over a period of 45 minutes. 3 hrs after the addition was completed, the reaction was poured into a stirred mixture of EtOAc (500 ml) and 10% aqueous potassium carbonate (300 ml). After vigorously stirring for 0.5 hr, the layers were separated. The organic phase was washed with water (250 ml) and brine (250 ml), dried (Na2SO4), filtered and evaporated in vacuo. Flash column chromatography (silica, 1:4; EtOAc:hexanes) provided 10-bromo-undecan-1-ol (20.8 g, 88%).

reactant | 10-bromoundecanoic acid | 94.2 mmol, 25.0 g | BrC(CCCCCCCCC(=O)O)C | C11H21BrO2
reactant | THF | 250 ml | C1CCOC1 | C4H8O
reactant | borane THF | 113 mmol, 1.0M, 113 ml | B.C1CCOC1
reactant | potassium carbonate | 300 ml | C([O-])([O-])=O.[K+].[K+]
solvent | EtOAc | 500 ml | CCOC(=O)C | C4H8O2
product | 10-bromo-undecan-1-ol | 20.8 g, 88% | BrC(CCCCCCCCCO)C | C11H23BrO
